US06743794B2
3-[(t-Butoxy)carbonylamino)cyclohexanecarboxylic Acid
To 3-aminocyclohexane carboxylic acid (3.00 g, 0.021 mol) in a THF/H2O mixture (50 mL/50 mL) was added potassium carbonate (2.90 g, 0.021 mol) and di-t-butyl dicarbonate (4.58 g, 0.021 mol) and the resultant mixture stirred overnight at ambient temperature. Then aqueous 5N HCl (10 mL) was added and the mixture extracted with ethyl acetate. The combined extracts were dried over sodium sulfate and concentrated in vacuo which allowed for isolation of 4.92 g (96%) of desired product as a white solid.

reactant | 3-aminocyclohexane carboxylic acid | 0.021 mol, 3.00 g | NC1CC(CCC1)C(=O)O | C7H13NO2
reactant | potassium carbonate | 0.021 mol, 2.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-t-butyl dicarbonate | 0.021 mol, 4.58 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 5N, 10 mL | Cl | ClH
solvent | THF H2O | 50 mL | C1CCOC1.O
product | 3-[(t-Butoxy)carbonylamino)cyclohexanecarboxylic Acid | C(C)(C)(C)OC(=O)NC1CC(CCC1)C(=O)O | C12H21NO4
